US08614206B2
A solution of 8-azido-9-methoxy-5-(2-methyl-4-nitro-pyrazol-3-yl)-5-azaspiro[2.6]nonane (120 mg, 0.37 mmol) in THF/water (5 mL/1 mL) was treated with trimethylphosphine (1.0 M in toluene, 1.8 mL, 1.8 mmol) and the reaction mixture was heated at 70° C. behind a blast screen for 4 hr. The reaction was cooled to room temperature and concentrated under reduced pressure. The residue was acidified with 1 M aqueous HCl and washed with EtOAc (2×20 mL). The aqueous layer was basified to pH 14 with aqueous 6 M NaOH and extracted with DCM (2×30 mL). The combined organic layers were passed through a phase separation cartridge and concentrated under reduced pressure to give a light brown gum. To a solution of this gum (80 mg, 0.27 mmol) in dry DCM (5 mL) at 0° C. was added DIPEA (0.1 mL, 0.54 mmol) followed by a solution of di-tert-butyl-dicarbonate (90 mg, 0.41 mmol) in DCM (5 mL). The reaction mixture was allowed to warm to room temperature and stirred for 4 hr. Water (5 mL) was added and the mixture extracted with DCM (2×30 mL). The combined organic layers were washed with brine (10 mL), passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (10-50% EtOAc/isohexane) gave tert-butyl N-[9-methoxy-5-(2-methyl-4-nitro-pyrazol-3-yl)-5-azaspiro[2.6]nonan-8-yl]carbamate as a yellow gum (110 mg, 72% over three steps). 1H NMR (400 MHz, CDCl3) δ 8.00 (s, 1H), 5.08 (d, J=8.9 Hz, 1H), 3.97-3.86 (m, 2H), 3.81 (s, 3H), 3.60 (ddd, J=13.6, 10.5, 2.8 Hz, 1H), 3.51 (s, 3H), 3.12-3.04 (m, 1H), 2.74 (s, 1H), 2.16 (d, J=12.6 Hz, 1H), 2.25-1.86 (m, 1H), 1.95-1.85 (m, 1H), 1.45 (s, 9H), 0.77-0.57 (m, 4H).

reactant | 8-azido-9-methoxy-5-(2-methyl-4-nitro-pyrazol-3-yl)-5-azaspiro[2.6]nonane | 0.37 mmol, 120 mg | N(=[N+]=[N-])C1CCN(CC2(CC2)C1OC)C=1N(N=CC1[N+](=O)[O-])C | C13H19N7O3
reactant | trimethylphosphine | 1.8 mmol, 1.0 M, 1.8 mL | CP(C)C | C3H9P
reactant | DIPEA | 0.54 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl-dicarbonate | 0.41 mmol, 90 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF water | 5 mL | C1CCOC1.O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 5 mL | O | H2O
product | tert-butyl N-[9-methoxy-5-(2-methyl-4-nitro-pyrazol-3-yl)-5-azaspiro[2.6]nonan-8-yl]carbamate | COC1C(CCN(CC12CC2)C=2N(N=CC2[N+](=O)[O-])C)NC(OC(C)(C)C)=O | C18H29N5O5
